US08710236B2
To a stirred solution of (R)-4-[2-(4-Benzofuran-2-yl-phenylcarbamoyl)-2-[4-(3,3-dimethyl-but-1-enyl)-phenyl-ethyl]-benzoic acid methyl ester (0.29 g, 0.52 mmol) in EtOH/THF/H2O (4:2:1) (12 mL) at rt, was added aq. 40% NaOH (2.5 ml), The reaction mixture was stirred for overnight, After completion of the reaction, the solvent was removed under reduced pressure. The crude was taken to pH=2 with 4N HCl and the resulting mixture was extracted with ethyl acetate. The organic layer was dried over MgSO4 and concentrated, the resulting compound was dried under vacuum to afford 4-[2-(4-Benzofuran-2-yl-phenylcarbamoyl)-2-[4-(3,3-dimethyl-but-1-enyl)-phenyl-ethyl]-benzoic acid as a solid (0.27 g, 98%):

reactant | 2-(4-Benzofuran-2-yl-phenylcarbamoyl)-2-[4-(3,3-dimethyl-but-1-enyl)-phenyl-ethyl]-benzoic acid methyl ester | 0.52 mmol, 0.29 g | COC(C1C(C=CC=C1)(CCC1=CC=C(C=C1)C=CC(C)(C)C)C(N(C1=CC=CC=C1)C1=CC=C2C(=CC=C2)O1)=O)=O | C37H37NO4
reactant | NaOH | 2.5 ml | [OH-].[Na+]
solvent | EtOH THF H2O | 12 mL | CCO.C1CCOC1.O
product | 2-(4-Benzofuran-2-yl-phenylcarbamoyl)-2-[4-(3,3-dimethyl-but-1-enyl)-phenyl-ethyl]-benzoic acid | 0.27 g, 98% | O1C(=CC=C2C1=CC=C2)N(C(=O)C2(C(C(=O)O)C=CC=C2)CCC2=CC=C(C=C2)C=CC(C)(C)C)C2=CC=CC=C2 | C36H35NO4
